US06838463B2
In 10 ml of N,N-dimethylformamide were dissolved 255 mg of 4-chloro-2-methyl-6-(2,3-difluorophenyl)pyrimidine and 97 mg of 3-butyn-2-ol, to which 56 mg of sodium hydride (60% in oil) was added, followed by stirring at room temperature for 9 hours. The reaction mixture was then poured into water and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The resulting residue was subjected to silica gel column chromatography to give 250 mg of 2-methyl-4-(2,3-difluorophenyl)-6-(1-methyl-2-propynyloxy)pyrimidine (the present compound (161)).

reactant | 4-chloro-2-methyl-6-(2,3-difluorophenyl)pyrimidine | 255 mg | ClC1=NC(=NC(=C1)C1=C(C(=CC=C1)F)F)C | C11H7ClF2N2
reactant | 3-butyn-2-ol | 97 mg | CC(C#C)O | C4H6O
reactant | sodium hydride | 56 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-methyl-4-(2,3-difluorophenyl)-6-(1-methyl-2-propynyloxy)pyrimidine | 250 mg | CC1=NC(=CC(=N1)C1=C(C(=CC=C1)F)F)OC(C#C)C | C15H12F2N2O
